US07132425B2
A solution of 5-(2-oxo-ethyl)-pyrazine-2-carboxylic acid methyl ester (295 mg, 1.42 mmol) and ethylene glycol (100 μL, 1.79 mmol) in benzene (10 mL) was treated with p-toluenesulfonic acid monohydrate (27 mg, 0.142 mmol), and the mixture was heated under reflux with a Dean-Stark condenser for 20 h. The mixture was cooled, diluted with benzene (15 mL), and then washed with a saturated aqueous sodium bicarbonate solution (10 mL) followed by a saturated aqueous sodium chloride solution (10 mL). Each aqueous phase was extracted with a small portion of benzene. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo to dryness to afford 5-[1,3]dioxolan-2-ylmethyl-pyrazine-2-carboxylic acid methyl ester as an orange oil (273 mg, 86%).

reactant | 5-(2-oxo-ethyl)-pyrazine-2-carboxylic acid methyl ester | 1.42 mmol, 295 mg | COC(=O)C1=NC=C(N=C1)CC=O | C8H8N2O3
reactant | ethylene glycol | 1.79 mmol, 100 μL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.142 mmol, 27 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | 5-[1,3]dioxolan-2-ylmethyl-pyrazine-2-carboxylic acid methyl ester | 273 mg, 86% | COC(=O)C1=NC=C(N=C1)CC1OCCO1 | C10H12N2O4
